2190-09-03 10:01:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 84 yo female with early dementia, HTN, CAD,
   GERD, PUD and depression presents to the ED today after a syncopal
   episode found to have several large melanotic stools.
   24 Hour Events: received 1L NS since admission to floor.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix 40 q12
   Docusate
   viB12
   levothyroxine
   simvistatin
   paniflex
   PRN tylenol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-9-3**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 59 (59 - 80) bpm
   BP: 156/66(87) {111/46(67) - 176/78(106)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,050 mL
                                                                    776 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                     50 mL
                                                                    576 mL
   Blood products:
   Total out:
                                                                    365 mL
                                                                    351 mL
   Urine:
                                                                    365 mL
                                                                    351 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    685 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   Gen: Well appearing elderly female, no acute distress.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented. Neck: Supple
   Chest: CTAB anterior
   Cor: Normal S1, S2. RRR. No murmurs appreciated. Abdomen: Soft,
   non-tender and non-distended. +BS, no HSM.
   Extremity: Warm, without edema. 2+ DP pulses bilat. Neuro: Alert and
   oriented to person, place and year
   12.0 g/dL
   210 K/uL
   152 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.4 mEq/L
   36 mg/dL
   109 mEq/L
   138 mEq/L
   39.1 %
   18.6 K/uL
        [image002.jpg]
                             [**2190-9-2**]  06:50 PM
                             [**2190-9-3**]  01:35 AM
                             [**2190-9-3**]  08:00 AM
   WBC
   15.5
   18.4
   18.6
   Hct
   35.7
   32.8
   39.1
   Plt
   255
   234
   210
   Cr
   1.5
   TropT
   <0.01
   Glucose
   152
   Other labs: PT / PTT / INR:12.7/23.1/1.1, CK / CKMB /
   Troponin-T:43//<0.01, Differential-Neuts:89.9 %, Lymph:7.6 %, Mono:2.0
   %, Eos:0.3 %, Ca++:10.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan84 yo female presents with syncopal episode and
   multiple melanotic stools.
   .
   #Syncope: Multiple possible etiologies including vasovagal, arrythmia,
   or hypoglycemia, although history is not particularly suggestive for
   any of these. Suspect that if pt has had some ongoing GI bleeding,
   particularly in the setting of abd pain, this could have resulted in
   transient hypotension.
   -monitor on tele
   -Check Orthostatics
   -aggressive managment of possible GI bleeding as below
   -monitor for evidence of recurrence
   -consider echo before discharge
   .
   #Melanotic stools: Concering for GI bleeding, potentially from upper
   source given pt's prior h/o PUD.
   -[**Hospital1 7**] IV PPI
   -two large bore IVs
   -q6 hr HCTs
   -hold home ASA, atenolol
   -transfuse for HCT <30
   -EGD with GI in AM
   .
   #Abd pain: Ddx includes pain from GIB, bowel ischemia or coronary
   ischemia.
   -ROMI
   -consider CTA abd if clinically worsening but will defer for now given
   renal failure
   -Check lactate, C. Diff
   .
   #Leukocytosis: Likely stress demargination but bowel ischemia also a
   consideration. No other clear source and thus far afebile.
   -monitor for now, plan as above
   .
   #RF: Pt's Cr is above level in [**2184**] but unclear how far off she is from
   recent baseline. Has received 1L fluid in ED; continue gentle
   hydreation PRN and trend.
   .
   #CAD: Holding ASA and BB in setting of probable acute bleed. Plan to
   re-add as soon as possible. Continue Zetia.
   .
   #HTN: Holding home atenolol. Will monitor for now and treat as needed.
   .
   #Depression/psych: Continue home meds.
   .
   #Hypothyroid: Continue home levothyroxine.
   #FEN: Check albumin to correct calcium.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-9-2**] 07:30 PM
   Prophylaxis:
   DVT: Compression boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Pending stable Hct can
   Total time spent:

2190-09-04 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EGD done yesterday, visualized blood in stomach, but no active source
   of bleeding. VS remain stable.
   - Has been oozing small amounts of bright blood per rectum.
   Other ICU medications:
   Midazolam (Versed) - [**2190-9-3**] 01:45 PM
   Fentanyl - [**2190-9-3**] 01:45 PM
   Other medications:
   Flowsheet Data as of  [**2190-9-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 77 (55 - 89) bpm
   BP: 133/58(77) {115/52(70) - 168/79(96)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,475 mL
                                                                    225 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    975 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                    786 mL
                                                                    275 mL
   Urine:
                                                                    786 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    689 mL
                                                                    -50 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: Well appearing elderly female, no acute distress.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Chest: CTAB anterior and posterior.
   Cor: Normal S1, S2. RRR. No murmurs appreciated.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Warm, without edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented to person, place and year. Uncertain of
   month. Follows news but does not recall who is running for president.
   CN 2-12 intact. Motor strength intact in all extremities. Sensation
   intact grossly.
   Labs / Radiology
   212 K/uL
   11.2 g/dL
   152 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.4 mEq/L
   36 mg/dL
   109 mEq/L
   138 mEq/L
   34.9 %
   18.1 K/uL
        [image002.jpg]
                             [**2190-9-2**]  06:50 PM
                             [**2190-9-3**]  01:35 AM
                             [**2190-9-3**]  08:00 AM
                             [**2190-9-3**]  11:20 AM
                             [**2190-9-3**]  07:29 PM
   WBC
   15.5
   18.4
   18.6
   16.4
   18.1
   Hct
   35.7
   32.8
   39.1
   36.4
   34.9
   Plt
   255
   234
   210
   242
   212
   Cr
   1.5
   TropT
   <0.01
   <0.01
   Glucose
   152
   Other labs: PT / PTT / INR:12.7/23.1/1.1, CK / CKMB /
   Troponin-T:56//<0.01, Amylase / Lipase:30/14, Differential-Neuts:89.9
   %, Lymph:7.6 %, Mono:2.0 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.7 g/dL, Ca++:10.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   84 yo female presents with syncopal episode and multiple melanotic
   stools.  EGD w/ blood in stomach, but no active bleeding site.  Hct has
   been relatively stable as have VS.
   .
   #GIB: EGD w/ blood in stomach, but no active bleeding site.  Unclear
   why pt has red blood in stool if source is from UGI tract, since pt
   does not seem to be bleeding large/brisk volumes.  [**Month (only) 51**] need to clarify
   w/ lower scope.
   -[**Hospital1 7**] IV PPI
   -two large bore IVs
   -q12 hr HCTs
   -hold home ASA, atenolol
   -transfuse for significant  drop in hct
   -f/u GI recs; ? lower scope
   .
   #Syncope: Multiple possible etiologies including vasovagal, arrythmia,
   or hypoglycemia, although history is not particularly suggestive for
   any of these. Suspect that if pt has had some ongoing GI bleeding, this
   could have resulted in transient hypotension.
   -monitor on tele
   -consider echo before discharge
   .
   #Leukocytosis: Unclear source and thus far afebile.  Has persisted
   longer than would suspect w/ stress response.
   -monitor for now, send urine cx as pt c/o some dysuria.  CIS.
   .
   #RF: Pt's Cr is above level in [**2184**] but unclear how far off she is from
   recent baseline. Continue gentle hydration PRN and trend.
   .
   #CAD: Holding ASA and BB in setting of probable acute bleed. Plan to
   re-add as soon as possible. Continue Zetia.
   .
   #HTN: Holding home atenolol. Will monitor for now and treat as needed.
   .
   #Depression/psych: Continue home meds.
   .
   #Hypothyroid: Continue home levothyroxine.
   ICU Care
   Nutrition: Tolerating PO
   Lines:
   20 Gauge - [**2190-9-2**] 07:30 PM
   20g
   Prophylaxis:
   DVT: Boots
   Communication:  Comments: w/ pt & dtr
   [**Name (NI) 36**] status: Full code
   Disposition: possible callout today

2190-09-04 07:34:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 84 yo female with early dementia, HTN, CAD,
   GERD, PUD and depression presents to the ED today after a syncopal
   episode found to have several large melanotic stools. Underwent EGD
   yesterday
 found blood in the stomach without a source of active
   bleeding. No c-scope done at this time. Fluid challenge overnight given
   decreased UOP; some increase in UOP in response to this.
   24 Hour Events:
 ENDOSCOPY - At [**2190-9-3**] 01:45 PM
   EGD done, visualized blood in stomach, but no active source of
   bleeding. Given Fent/Midaz, 25mcg, 1mg.  VS remain stable.
   Allergies:
   Last dose of Antibiotics: N/A
   Infusions: N/A
   Other ICU medications:
   Midazolam (Versed) - [**2190-9-3**] 01:45 PM
   Fentanyl - [**2190-9-3**] 01:45 PM
   Other medications:
   Protonix 40mg IV q12
   Docusate 100mg PO BID
   viB12 500mcg PO q24h
   levothyroxine 25mcg PO q24h
   Zocor 10mg PO q24
   Effexor 150mg PO q24h
   paniflex
   PRN tylenol
   Changes to medical and family history: None.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No change.
   Flowsheet Data as of  [**2190-9-4**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 77 (55 - 89) bpm
   BP: 133/58(77) {115/52(70) - 168/79(96)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 99% on 2L NC
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,475 mL
                                                                    225 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    975 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                    786 mL
                                                                    275 mL
   Urine:
                                                                    786 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    689 mL
                                                                    -50 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: Elderly, pleasant, NAD.
   HEENT: Pale conjunctiva. OP clear. Dry MM.
   CV: S1S2 RRR w/ soft HS
s. No m/r/g
   Lungs: CTA bilaterally without appreciable crackles / wheezing.
   Ab: Mid-line lower abdominal scar. Positive BS
s. NT/ND. No masses /
   HSM noted.
   Ext: No c/c/e.
   Neuro: Intact grossly, alert, interactive, appropriate.
   Labs / Radiology
   11.2 g/dL
   212 K/uL
   152 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.4 mEq/L
   36 mg/dL
   109 mEq/L
   138 mEq/L
   34.9 %
   18.1 K/uL
        [image002.jpg]
                             [**2190-9-2**]  06:50 PM
                             [**2190-9-3**]  01:35 AM
                             [**2190-9-3**]  08:00 AM
                             [**2190-9-3**]  11:20 AM
                             [**2190-9-3**]  07:29 PM
   WBC
   15.5
   18.4
   18.6
   16.4
   18.1
   Hct
   35.7
   32.8
   39.1
   36.4
   34.9
   Plt
   255
   234
   210
   242
   212
   Cr
   1.5
   TropT
   <0.01
   <0.01
   Glucose
   152
   Other labs: PT / PTT / INR:12.7/23.1/1.1, CK / CKMB /
   Troponin-T:56//<0.01, Amylase / Lipase:30/14, Differential-Neuts:89.9
   %, Lymph:7.6 %, Mono:2.0 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.7 g/dL, Ca++:10.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   84 yo female presented with syncopal episode and multiple melanotic
   stools.
   1) Syncope: Not hemodynamically unstable in the MICU. Possibly related
   to a sentinel bleed and transient hypotension. Cardiogenic causes are
   certainly possible, perhaps exacerbated by her UGIB. Will likely need
   TTE prior to discharge. Continue to monitor on Tele.
   2) Melanotic stools: Concerning for GI bleeding, suspect  upper source
   given pt's prior h/o PUD and visualized blood in the stomach. Continue
   [**Hospital1 7**] IV PPI. Maintain two large bore IVs. Would like to check a Hct this
   morning (none since yesterday) and continue to monitor Hct [**Hospital1 7**].
   Continue to hold home ASA, atenolol. Transfuse for HCT <30. F/u with GI
   re c-scope or not (suspect not given visualized blood in the stomach.)
   3) Abd pain: Suspect that this was from pain related to UGIB, bowel
   ischemia or coronary ischemia. Can consider CTA abdomen if clinically
   worsening but will defer for now given renal failure.
   4) Leukocytosis: Likely stress response but bowel ischemia also a
   consideration. No other clear source and remains afebrile; infectious
   w/u if she does mount a fever. Would send UA prior to d/c
ing Foley
   given her level of discomfort and no other clear source for
   leukocytosis.
   5)RF: Creatinine is above level in [**2184**] but unclear how far off she is
   from recent baseline. Has received 1L fluid in ED; continue gentle
   hydration PRN and trend. Would endeavor to keep her net positive today.
   Recheck creatinine this morning. Given she
s having significant
   discomfort from Foley, OK to d/c this today.
   6) CAD: Holding ASA and BB in setting of probable acute bleed. Plan to
   re-add as soon as possible. Continue Zetia.
   7) HTN: Holding home atenolol. Will monitor for now and treat as
   needed.
   8) Depression/psych: Continue home meds.
   9) Hypothyroid: Continue home levothyroxine.
   10) FEN: Check albumin to correct calcium.
   11) Dispo: OK to send to floor after rechecking Hct and creatinine this
   morning.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-9-2**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2190-09-05 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2190-9-4**] 02:00 PM , hyperdynamic small LV
   Yesterday's am HCT continued to drop (total down 10pts in 24 hours),
   kept in ICU to have documented stable hcts.  Next Hct 30.3 (from 29.7)
   Small melanotic stool x 1 yesterday
   Remained HD stable, quiet overnight
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-9-5**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 94 (76 - 94) bpm
   BP: 158/51(79) {119/51(67) - 180/97(113)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,839 mL
                                                                    491 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,999 mL
                                                                     11 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                  1,020 mL
   Urine:
                                                                    995 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,844 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: Well appearing elderly female, no acute distress.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Chest: CTAB anterior and posterior.
   Cor: Normal S1, S2. RRR. No murmurs appreciated.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Warm, without edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented to person, place and year. Uncertain of
   month. CN 2-12 intact. Motor strength intact in all extremities.
   Sensation intact grossly.
   Labs / Radiology
   195 K/uL
   10.0 g/dL
   121 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   21 mg/dL
   106 mEq/L
   137 mEq/L
   30.0 %
   14.1 K/uL
        [image002.jpg]
                             [**2190-9-2**]  06:50 PM
                             [**2190-9-3**]  01:35 AM
                             [**2190-9-3**]  08:00 AM
                             [**2190-9-3**]  11:20 AM
                             [**2190-9-3**]  07:29 PM
                             [**2190-9-4**]  10:30 AM
                             [**2190-9-4**]  04:19 PM
                             [**2190-9-5**]  02:51 AM
   WBC
   15.5
   18.4
   18.6
   16.4
   18.1
   13.6
   14.1
   Hct
   35.7
   32.8
   39.1
   36.4
   34.9
   29.7
   30.3
   30.0
   Plt
   255
   234
   210
   [**Telephone/Fax (3) 1389**]
   195
   Cr
   1.5
   1.2
   1.2
   TropT
   <0.01
   <0.01
   Glucose
   152
   158
   121
   Other labs: PT / PTT / INR:13.0/25.3/1.1, CK / CKMB /
   Troponin-T:56//<0.01, Amylase / Lipase:30/14, Differential-Neuts:89.9
   %, Lymph:7.6 %, Mono:2.0 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.7 g/dL, Ca++:10.0 mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   84 yo female presents with syncopal episode and multiple melanotic
   stools.  EGD w/ blood in stomach, but no active bleeding site.  HCT has
   been relatively stable as have VS.
   .
   #GIB: EGD w/ blood in stomach, but no active bleeding site.  Unclear
   why pt has red blood in stool if source is from UGI tract, since pt
   does not seem to be bleeding large/brisk volumes.  HCT and VS stable.
   -[**Hospital1 7**] IV PPI
   -two large bore IVs
   -q12 hr HCTs
   -hold home ASA, atenolol
   -transfuse for significant  drop in hct
   -f/u GI recs; ? lower scope
   .
   #Syncope: Multiple possible etiologies including vasovagal, arrythmia,
   or hypoglycemia, although history is not particularly suggestive for
   any of these. Suspect that if pt has had some ongoing GI bleeding, this
   could have resulted in transient hypotension.
   -monitor on tele
   -consider echo before discharge
   .
   #Leukocytosis: Unclear source and thus far afebile.  Has persisted
   longer than would suspect w/ stress response.
   -monitor for now, send urine cx as pt c/o some dysuria.  CIS.
   .
   #RF: Pt's Cr is above level in [**2184**] but unclear how far off she is from
   recent baseline. Continue gentle hydration PRN and trend.
   .
   #CAD: Holding ASA and BB in setting of probable acute bleed. Plan to
   re-add as soon as possible. Continue Zetia.
   .
   #HTN: Holding home atenolol. Will monitor for now and treat as needed.
   .
   #Depression/psych: Continue home meds.
   .
   #Hypothyroid: Continue home levothyroxine.
   ICU Care
   Nutrition: PO diet.
   Glycemic Control: Controlled without insulin.
   Lines:
   20 Gauge - [**2190-9-2**] 07:30 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: likely c/o to floor today